US07056559B2
Synthesis of Exemplified Compound 1A: 3,3,4,4-tetramethyl-2,2-diphenyloxetane
A benzene solution containing benzophenone and 2,3-dimethyl-but-2-ene was placed in a photochemical reaction apparatus made of Pyrex (registered trade mark) into which argon gas was sealed, and while stirring, was exposed to ultraviolet radiation for 12 hours, employing a high pressure mercury lamp. Subsequently, after removing the solvent, vacuum distillation was performed, whereby a targeted compound was obtained.

reactant | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | 2,3-dimethyl-but-2-ene | CC(C)=C(C)C | C6H12
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,3,4,4-tetramethyl-2,2-diphenyloxetane | CC1(C(OC1(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C | C19H22O
